US04064236
To a stirred solution of acetylalanine (0.03 mole) and N-methylmorpholine (0.03 mole) in dry tetrahydrofuran (200 ml) at -20° to -25° is added isobutyl chloroformate (0.03 mole). After 10 minutes, a suspension of the crude alanylleucine benzyl ester hydrochloride (0.03+ mole) and N-methylmorpholine (0.04 mole) in tetrahydrofuran (25 ml) is added in portions over 1/2 hour. The mixture is allowed to warm to room temperature over a period of 2 hours and stirred overnight. The reaction mixture is evaporated to dryness and the residue is purified by chromatography on silica gel (200 gm) and elution with 10% methanol in chloroform to give acetylalanylalanylleucine benzyl ester.

reactant | acetylalanine | 0.03 mole | C(C)(=O)N[C@@H](C)C(=O)O | C5H9NO3
reactant | N-methylmorpholine | 0.03 mole | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.03 mole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | alanylleucine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N)C)=O)CC(C)C)=O
reactant | N-methylmorpholine | 0.04 mole | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | acetylalanylalanylleucine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC(C)=O)C)=O)C)=O)CC(C)C)=O | C21H31N3O5
